US09168259B2
A solution of 2-cyclopropyl-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid ethyl ester (16.8 g, 57.8 mmol) in methanol-tetrahydrofuran (1:1) (90 ml) is treated for 3 days with a 2M aqueous solution of sodium hydroxide at reflux. The organic solvent is distilled off and the aqueous layer treated with 2M hydrochloric acid, and extracted with ethyl acetate. The combined organic layers are dried over magnesium sulphate and evaporated to dryness. The crude product is purified by flash chromatography (silica gel, 75% ethyl acetate/cyclohexane) to yield 2-cyclopropyl-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid (10.4 g, 39.6 mmol, 69%).

reactant | 2-cyclopropyl-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid ethyl ester | 57.8 mmol, 16.8 g | C(C)OC(=O)C=1C(=NC(=CC1C)N1CCOCC1)C1CC1 | C16H22N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol tetrahydrofuran | 90 ml | CO.O1CCCC1
product | 2-cyclopropyl-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid | 39.6 mmol, 10.4 g, 69% | C1(CC1)C1=NC(=CC(=C1C(=O)O)C)N1CCOCC1 | C14H18N2O3
